US03941796
6. 3,5-dihydroxyphenyl 6-benzyl-2-pyridyl ketone hydrochloride
About 15.5 g. of 3,5-dimethoxyphenyl 6-benzyl-2-pyridyl ketone hydrochloride in 55 ml. of constant boiling hydrobromic acid were heated under reflux for 12 hours. Removal of the solvent gave a tacky residue which was basified with ammonia solution and was extracted three times with a total of 90 ml. of boiling ethyl acetate. The extracts were washed twice with a total of 50 ml. of water, dried over magnesium sulfate and treated with charcoal. Removal of the solids and treatment of the filtrate with hydrogen chloride yielded 3.52 g. of a khaki-colored salt. Nuclear magnetic spectroscopy revealed that the methoxy groups had been removed and the product was used without further purification for the next step.

reactant | 3,5-dimethoxyphenyl 6-benzyl-2-pyridyl ketone hydrochloride | Cl.C(C1=CC=CC=C1)C1=CC=CC(=N1)C(=O)C1=CC(=CC(=C1)OC)OC
reactant | hydrobromic acid | Br | BrH
reactant | ammonia | N | H3N
product | 3,5-dihydroxyphenyl 6-benzyl-2-pyridyl ketone hydrochloride | Cl.C(C1=CC=CC=C1)C1=CC=CC(=N1)C(=O)C1=CC(=CC(=C1)O)O | InChI=1S/C19H15NO3.ClH/c21-16-10-14(11-17(22)12-16)19(23)18-8-4-7-15(20-18)9-13-5-2-1-3-6-13;/h1-8,10-12,21-22H,9H2;1H
